US07524849B2
To a mixture of sodium hydride (60% in mineral oil, 102 mg, 2.55 mmol) in 4 mL of dimethylsulfoxide at room temperature is added 3-(methylamino)propan-1-ol (224 mg, 2.51 mmol). The mixture is stirred at room temperature for 1 h, and 6-cycloheptyl-2-pyrazin-2-yl-5-(2,4,6-trifluorophenyl)pyrimidin-4-ol (336 mg, 0.84 mmol) is added. The mixture is stirred at 60° C. for 14 h, and cooled to room temperature. Di-tert-butyl dicarbonate (550 mg, 2.5 mmol) is added, and the mixture is stirred at room temperature for 16 h. The mixture is diluted with ethyl acetate. The organic layer is washed with water and saturated sodium chloride, dried over magnesium sulfate, and concentrated. The residue is chromatographed over silica gel, eluting with 10% methanol in ethyl acetate. Concentration provides tert-butyl {3-[4-(4-cycloheptyl-6-hydroxy-2-pyrazin-2-ylpyrimidin-5-yl)-3,5-difluorophenoxy]propyl}methylcarbamate as a light yellow solid (320 mg). MS: m/z 570.3 (M+H).

reactant | sodium hydride | 2.55 mmol, 102 mg | [H-].[Na+]
reactant | 3-(methylamino)propan-1-ol | 2.51 mmol, 224 mg | CNCCCO | C4H11NO
reactant | 6-cycloheptyl-2-pyrazin-2-yl-5-(2,4,6-trifluorophenyl)pyrimidin-4-ol | 0.84 mmol, 336 mg | C1(CCCCCC1)C1=C(C(=NC(=N1)C1=NC=CN=C1)O)C1=C(C=C(C=C1F)F)F | C21H19F3N4O
reactant | Di-tert-butyl dicarbonate | 2.5 mmol, 550 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethylsulfoxide | 4 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl {3-[4-(4-cycloheptyl-6-hydroxy-2-pyrazin-2-ylpyrimidin-5-yl)-3,5-difluorophenoxy]propyl}methylcarbamate | 320 mg | C1(CCCCCC1)C1=NC(=NC(=C1C1=C(C=C(OCCCN(C(OC(C)(C)C)=O)C)C=C1F)F)O)C1=NC=CN=C1 | C30H37F2N5O4
